US04289766
A mixture of 34 g. of undecylaldehyde and 22.8 g. of 2-aminoethanethiol hydrochloride in about 400 ml. of toluene was heated at reflux overnight. The water of condensation was collected in a Dean-Stark trap. The reaction mixture then was washed with aqueous sodium hydroxide and dried over anhydrous magnesium sulfate. After filtering the reaction mixture, the toluene was distilled under reduced pressure. The residue then was vacuum distilled, b.p. 130°-8°/0.1 mm, giving 2-decylthiazolidine. The following elemental microanalysis was obtained:

reactant | undecylaldehyde | C(CCCCCCCCCC)=O | C11H22O
reactant | 2-aminoethanethiol hydrochloride | Cl.NCCS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-decylthiazolidine | C(CCCCCCCCC)C1SCCN1 | C13H27NS
